US07781586B2
2-Methyl-8-vinyl-quinoline
A suspension of 4.80 g (21.60 mmol) 8-bromo-2-methylquinoline (commercially available from ACB Block Ltd, Moscow, Russia), 0.89 g (1.10 mmol) PdCl2dppfCH2Cl2, 4.48 g (32.40 mmol) potassium vinyl tetrafluoroborate and 3.10 ml (22.10 mmol) triethylamine in 150 ml ethanol was heated at reflux for 3 h. The resulting yellow suspension was filtered and the filtrate evaporated to dryness. The residue was suspended in ethyl acetate, filtered and the filtrate extracted with water. The organic layer was evaporated to dryness and the isolated crude product purified by silica gel chromatography (CH2Cl2/ethyl acetate 98:2) to yield 2.68 g (73%) of the title compound as a colorless oil. MS: 169.1 (M+). 1H-NMR (300 MHz, CDCl3): 2.74 (s, 1H); 5.47 (dd, J=11.1, 1.6 Hz, 1H); 5.97 (dd, 17.9, 1.6 Hz, 1H), 7.24 (d, J=8.4 Hz, 1H); 7.43 (t, J=7.7 Hz, 1H); 7.66 (dd, J=8.1, 1.2 Hz, 1H); 7.87 (dd, J=7.3, 1.2 Hz, 1H); 7.97 (d, J=8.4 Hz, 1H); 8.05 (dd, J=17.9, 11.1 Hz, 1H).

reactant | 8-bromo-2-methylquinoline | 21.60 mmol, 4.80 g | BrC=1C=CC=C2C=CC(=NC12)C | C10H8BrN
reactant | triethylamine | 22.10 mmol, 3.10 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Methyl-8-vinyl-quinoline | 2.68 g, 73% | CC1=NC2=C(C=CC=C2C=C1)C=C | C12H11N
